US03935267
b. trans-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol
A solution of 8.0 q. (0.048 mole) of 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol in 100 ml. of tetrahydrofuran is cooled to 0° and 20 ml. of water and 0.5 ml. of 70% perchloric acid are added. After 4 hrs., a further 1.5 ml. of acid is added and the solution stirred for 16 hr. at ambient temperature and diluted with 100 ml. each of ether, 10% sodium bicarbonate and saturated salt solution. The aqueous layer is separated and washed with 150 ml. of 1:1 ether-tetrahydrofuran. The organic phase is washed with saturated salt solution, dried and evaporated to give an oil which solidifies on trituration with chloroform. Recrystallization gives in two crops, 4.85 g. of solid which is recrystallized from ethyl acetate to give 3.84 g. m.p. 179.5°-181.5°. Two further recrystallizations of a small sample give the analytical specimen, m.p. 183°-184°.

reactant | 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol | 0.048 mole | O1C2CC=3C=CC=C(C3CC21)O | C10H10O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | trans-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol | C1(=CC=CC=2C[C@H]([C@@H](CC12)O)O)O | C10H12O3
